US05798311
a. 2-(N-methoxycarbonyl-N-(carbomethoxymethyl)amino)-4'-chloroacetophenone
By substantially following the procedure given in Example 585c using 35 g (150 mmole) of 2-bromo-4'-chloroacetophenone, 20.7 g (160 mmole) of glycine methyl ester hydrochloride, 40.6 g (310 mmole) of diisopropylethyl amine, and 14.2 g (150 mmole) of methyl chloroformate, 12.5 g of the desired compound, an oil, was obtained.

reactant | 2-bromo-4'-chloroacetophenone | 150 mmole, 35 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | glycine methyl ester hydrochloride | 160 mmole, 20.7 g | Cl.COC(CN)=O
reactant | diisopropylethyl amine | 310 mmole, 40.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl chloroformate | 150 mmole, 14.2 g | ClC(=O)OC | C2H3ClO2
product | 2-(N-methoxycarbonyl-N-(carbomethoxymethyl)amino)-4'-chloroacetophenone | 12.5 g | COC(=O)N(CC(=O)OC)CC(=O)C1=CC=C(C=C1)Cl | C13H14ClNO5
